US07534788B2
Step 4: (4-Chloro-2-isobutyryl-5-methoxy-phenoxy)-acetic acid ethyl ester
The above prepared [4-chloro-2-(1-hydroxy-2-methyl-propyl)-5-methoxy-phenoxy]-acetic acid ethyl ester (1.56 g, 4.92 mmol) was dissolved in 50 mL of CH2Cl2, treated with MnO2 (12.84 g, 30 eq.), and the reaction mixture vigorously stirred over night at 35-40° C. Cooling, filtration over a pad of Celite, copiously rinsing, and evaporation of the solvent, followed by flash chromatography (SiO2, heptane/AcOEt=72/28) and direct crystallization afforded 0.887 g of the title compound as off-white crystals.

reactant | [4-chloro-2-(1-hydroxy-2-methyl-propyl)-5-methoxy-phenoxy]-acetic acid ethyl ester | 4.92 mmol, 1.56 g | C(C)OC(COC1=C(C=C(C(=C1)OC)Cl)C(C(C)C)O)=O | C15H21ClO5
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 12.84 g, 30 eq. | O=[Mn]=O
product | (4-Chloro-2-isobutyryl-5-methoxy-phenoxy)-acetic acid ethyl ester | 0.887 g | C(C)OC(COC1=C(C=C(C(=C1)OC)Cl)C(C(C)C)=O)=O | C15H19ClO5
